US09226916B2
rac-1-{(3R,4S)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3-(4-fluoro-phenyl)-1-methyl-urea
To a solution of triphosgene (110 mg, 0.37 mmol) in dichloromethane (2 mL) was added at 0° C. very carefully 4-fluoroaniline (178 μl, 1.86 mmol). After the resulting suspension was stirred for 15 min N,N-diisopropyl ethyl amine (381 μl, 2.23 mmol) was added dropwise. The solution was stirred for 4 h at ambient temperature and then added to rac-{4-[(3S,4R)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone (150 mg, 0.37 mmol). The resulting solution was irradiated in the microwave for 30 min at 80° C. before it was diluted with ethyl acetate (15 mL) and washed with an aqueous solution of sodium carbonate (1 M, 15 mL). The organic layer was separated and washed with brine (15 mL) and the aqueous layers were extracted with ethyl acetate (20 mL). The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate:methanol=80:20:0 to 0:90:10) afforded the title compound (190 mg, 95%) as an off-white foam. MS m/e: 541.3 [M]+.

reactant | triphosgene | 0.37 mmol, 110 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-fluoroaniline | 1.86 mmol, 178 μl | FC1=CC=C(N)C=C1 | C6H6FN
reactant | N,N-diisopropyl ethyl amine | 2.23 mmol, 381 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | rac-{4-[(3S,4R)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | 0.37 mmol, 150 mg | ClC1=CC=C(C=C1)[C@H]1CN(C[C@@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H30ClN3O2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | rac-1-{(3R,4S)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3-(4-fluoro-phenyl)-1-methyl-urea | 190 mg, 95% | ClC1=CC=C(C=C1)[C@@H]1[C@H](CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(=O)NC1=CC=C(C=C1)F)C | C29H34ClFN4O3
